US06342492B1
Free base. In a round-bottomed flask equipped with a magnetic stir bar, 6.51 g (12.1 mmol) of N-benzylbis(3-benzenesulfonamidopropyl)amine hydrochloride, 40 mL of CH2Cl2, 15 mL of a solution of 1 N aq. NaOH and 15 mL of saturated aq. NaCl were combined. After stirring vigorously for 30 min, the layers were separated and the organic portion dried (MgSO4). Removal of the drying agent by filtration, concentration of the filtrate by rotary evaporation and further drying under vacuum (0.4 mm, 45° C.) for 24 h afforded 5.96 g (98%) of N-benzylbis (3-benzenesulfonamidopropyl)amine as a thick colorless oil. TLC (silica) : Rf=0.21, 1:1 (v/v) ethyl acetate:hexane. 1H NMR (CDCl3/TMS) δ7.82 (d, 4 H, J=7 Hz,SO2ArH2,6), 7.51 (m, 6 H, SO2ArH3,4,5), 7.22 (m, 3 H, BnArH2,4,6), 7.16 (m, 2 H, BnArH3,5), 5.9 (br, 2 H, SO2NH) 3.40 (s, 2 H, PhCH2N), 2.92 (t, 4 H, SO2NCH2CH2), 2.38 (t, 4 H, BnCH2CH2), 1.62 (quint, 4 H, NCH2CH2CH2N) 13 C NMR (CDCl3) δ139.9, 138.2, 132.4, 129.0, 128.4, 127.2, 126.9, 58.7, 51.8, 42.2, 26.1. IR (NaCl plate, cm−1) 3277 (br), 3061 (w), 1446 (s), 1325 (s), 1160 (s), 1093 (s).

reactant | N-benzylbis(3-benzenesulfonamidopropyl)amine hydrochloride | 12.1 mmol, 6.51 g | Cl.C(C1=CC=CC=C1)N(CCCNS(=O)(=O)C1=CC=CC=C1)CCCNS(=O)(=O)C1=CC=CC=C1
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | NaCl | 15 mL | [Na+].[Cl-]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | N-benzylbis (3-benzenesulfonamidopropyl)amine | 5.96 g, 98% | C(C1=CC=CC=C1)N(CCCNS(=O)(=O)C1=CC=CC=C1)CCCNS(=O)(=O)C1=CC=CC=C1 | C25H31N3O4S2
